US04061656
14.0 G. of 2,4-dimethyl-3-hydroxymethyl-5-(methylthio)thiophene and 26.0 G. of triphenylphosphonium bromide were dissolved in 75 ml. of acetonitrile and stirred at 40° C. for 1 hour. The resulting mixture was cooled and poured into 150 ml. of ethyl acetate then treated with ethyl ether/hexane (5:1). The resulting solution was decanted from a gum-like residue. The residue was treated with hot acetone and the resulting whitecrystals were filtered, washed with cold acetone and dried under high vacuum at 80° C. to yield [2,4-dimethyl-5-(methylthio)-3-thenyl]triphenylphosphonium bromide, m.p. 245°-248° C.

reactant | 2,4-dimethyl-3-hydroxymethyl-5-(methylthio)thiophene | CC=1SC(=C(C1CO)C)SC | C8H12OS2
reactant | triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetonitrile | C(C)#N | C2H3N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether hexane | C(C)OCC.CCCCCC
product | [2,4-dimethyl-5-(methylthio)-3-thenyl]triphenylphosphonium bromide | [Br-].CC1=C(C(=C(S1)SC)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H26PS2.BrH/c1-20-25(21(2)29-26(20)28-3)19-27(22-13-7-4-8-14-22,23-15-9-5-10-16-23)24-17-11-6-12-18-24;/h4-18H,19H2,1-3H3;1H/q+1;/p-1
